US07361672B2
61.2 Using general method A, (3-amino-[1,2,4]triazol-1-yl)-acetic acid ethyl ester was coupled with 5-chlorothiophene-2-carboxylic acid to give {3-[(5-chloro-thiophene-2-carbonyl)-amino]-[1,2,4]triazol-1-yl}-acetic acid ethyl ester. Off-white solid. MS 315.1 ([M+H]+)

reactant | (3-amino-[1,2,4]triazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=C(N=C1)N)=O | C6H10N4O2
reactant | 5-chlorothiophene-2-carboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
product | {3-[(5-chloro-thiophene-2-carbonyl)-amino]-[1,2,4]triazol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1N=C(N=C1)NC(=O)C=1SC(=CC1)Cl)=O | C11H11ClN4O3S
